US04474964
15 g of the 1-(2-phenoxyethyl)piperidine thus obtained was reacted with 30 ml of 40% hydrobromic acid at 150° C. for 7 hours with stirring. The reaction solution was cooled, added with 20 ml of chloroform and then the chloroform layer was separated. The hydrobromic acid layer was condensed under reduced pressure and the residue was recrystallized from 5 ml of ethyl alcohol to give 15.1 g of 1-(2-bromoethyl)piperidine hydrobromide having a melting point of 89° C. to 91° C. in a yield of 79%.

reactant | 1-(2-phenoxyethyl)piperidine | 15 g | O(C1=CC=CC=C1)CCN1CCCCC1 | C13H19NO
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-bromoethyl)piperidine hydrobromide | 15.1 g, yield of 79% | Br.BrCCN1CCCCC1 | InChI=1S/C7H14BrN.BrH/c8-4-7-9-5-2-1-3-6-9;/h1-7H2;1H
